US05753652
c) N-Trifluoroacetyl-1-phenyl-3-buten-2(S)-amine
17.0 ml (121 mmol) of trifluoroacetic acid anhydride are added dropwise, at 0° C., to 11.9 g (81 mmol) of 1-phenyl-3-buten-2(S)-amine dissolved in 210 ml of methylene chloride and 70 ml of pyridine. The mixture is stirred for 0.5 h at 0° C. and then extracted twice with dilute HCl, water and brine. The aqueous phases are washed a further twice with methylene chloride, dried with sodium sulfate and concentrated by evaporation: TLC Rf (M)=0.4.

reactant | trifluoroacetic acid anhydride | 121 mmol, 17.0 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1-phenyl-3-buten-2(S)-amine | 81 mmol, 11.9 g | C1(=CC=CC=C1)C[C@@H](C=C)N | C10H13N
solvent | methylene chloride | 210 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 70 ml | N1=CC=CC=C1 | C5H5N
product | N-Trifluoroacetyl-1-phenyl-3-buten-2(S)-amine | FC(C(=O)N[C@@H](CC1=CC=CC=C1)C=C)(F)F | C12H12F3NO
